US06919404B2
4-Hydroxy cinnamic acid (10 g, 61 mmol) was combined with 1-hexadecanol (14.0 g, 58 mmol), p-toluenesulfonic acid (1.2 g, 6.3 mmol) and 100 ml toluene and heated to 140° C. for 24 h with continual removal of water using a Dean-Stark distillation apparatus. The mixture was cooled to room temperature and 50 ml ethyl acetate added. The solution was washed with water, 5% sodium hydrogen carbonate, brine and then dried over magnesium sulfate. The product was recrystallized from ethyl acetate to give 4.8 g 3-(4-hydroxy-phenyl)-acrylic acid hexadecyl ester.

reactant | 4-Hydroxy cinnamic acid | 61 mmol, 10 g | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | 1-hexadecanol | 58 mmol, 14.0 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | p-toluenesulfonic acid | 6.3 mmol, 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(4-hydroxy-phenyl)-acrylic acid hexadecyl ester | 4.8 g | C(CCCCCCCCCCCCCCC)OC(C=CC1=CC=C(C=C1)O)=O | C25H40O3
